US03960152
A mixture of 57.6 grams (0.4 mole) of sublimed L-lactide, 378.0 grams (4.0 mole) of monochloroacetic acid and 2.8 grams of antimony trioxide was heated in an oil bath for 8 hours at 180°C., then for 24 hours at 130°C., and finally for five hours at 185°C. The excess monochloroacetic acid was then distilled off in vacuo and the O-chloroacetyl-L-lactic acid produced distilled at 90°-110°C./0.05 torr. to give 109.3 grams (82%) of product. The product was then slowly redistilled at 94°-100°C./0.05 torr. to give 100.5 grams (75.4%) of O-chloroacetyl-L-lactic acid, identical to that prepared from L-lactic acid and monochloroacetic acid.

reactant | L-lactide | 0.4 mole, 57.6 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | monochloroacetic acid | 4.0 mole, 378.0 grams | ClCC(=O)O | C2H3ClO2
reactant | antimony trioxide | 2.8 grams | O=[Sb]O[Sb]=O
product | O-chloroacetyl-L-lactic acid | ClCC(=O)OC([C@@H](O)C)=O | C5H7ClO4
